US07709645B2
(5-Bromo-2-fluoro-pyridin-3-yl)-(2-ethyl-2H-pyrazol-3-yl)-methanone (685 mg, 2.29 mmol) was combined with ammonia (0.5M in dioxane, 30 ml, 15.00 mmol) and di-iso-propylethylamine (4 ml, 23.43 mmol). The mixture was stirred for 18 hours at 90° C. The reaction mixture concentrated in vacuo. The crude material was combined with a saturated aqueous solution of sodium bicarbonate, and ethyl acetate and the biphasic mixture was stirred for 1 hour. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated. The crude material was purified by flash chromatography (0 to 100% [10% methanol in ethyl acetate] in hexanes) to give 339 mg (50%) of (2-amino-5-bromo-pyridin-3-yl)-(2-ethyl-2H-pyrazol-3-yl)-methanone. 1H-NMR (250 MHz, d6-DMSO) δ 8.35 (d, J=2.3 Hz, 1H), 7.99 (d, J=2.5 Hz, 1H), 7.68 (s, 2H), 7.61 (d, J=1.8 Hz, 1H), 6.71 (d, J=1.8 Hz, 1H), 4.35 (quart., J=7.0 Hz, 2H), 1.37 (t, J=7.3 Hz, 3H); MS: m/z 295.1+297.1 (M+H+).

reactant | (5-Bromo-2-fluoro-pyridin-3-yl)-(2-ethyl-2H-pyrazol-3-yl)-methanone | 2.29 mmol, 685 mg | BrC=1C=C(C(=NC1)F)C(=O)C=1N(N=CC1)CC | C11H9BrFN3O
reactant | ammonia | 15.00 mmol, 0.5M, 30 ml | N | H3N
reactant | di-iso-propylethylamine | 23.43 mmol, 4 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | (2-amino-5-bromo-pyridin-3-yl)-(2-ethyl-2H-pyrazol-3-yl)-methanone | 339 mg, 50% | NC1=NC=C(C=C1C(=O)C=1N(N=CC1)CC)Br | C11H11BrN4O
